US07700594B2
trans-4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylic acid
A mixture of 37% HCl (30 mL) and methyl trans-4-(8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate (500.0 mg, 1.28 mmol) was stirred for 18 h at rt. The reaction mixture was then concentrated in vacuo, and the residue washed with diethyl ether (3×10 mL) and ethyl acetate (2×10 mL), then with ice-cold acetonitrile (10 mL) to afford 0.3 g of the desired product. 1H NMR (d6-DMSO, 400 MHz): δ 12.15 (br s, 1H), 11.69 (s, 1H), 8.45 (br s, 2H), 7.97 (d, J=6.4 Hz, 1H), 7.63 (d, J=8.0 Hz, 1H), 7.50 (dd, J=8.0, 0.4 Hz, 1H), 7.19 (m, 1H), 7.13 (d, J=6.0 Hz, 1H), 7.06 (m, 1H), 6.83 (d, J=1.6 Hz, 1H), 3.27 (td, J=11.6, 3.2, 3.2 Hz, 1H), 2.33 (td, J=10.8, 3.2, 3.2 Hz, 1H), 2.05 (m, 4H), 1.73 (m, 2H) and 1.58 (mz, 2H). MS (ES+): m/z 376.05 [MH+].

reactant | methyl trans-4-(8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate | 1.28 mmol, 500.0 mg | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)C(=O)OC | C22H23N5O2
solvent | HCl | 30 mL | Cl | ClH
product | trans-4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylic acid | 0.3 g | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)C(=O)O | C21H21N5O2
